US05157038
Preparation of 8-benzyl-3-methyl-4-methylene-2-oxo-1-oxa-3,8-diazaspiro[4,5]decane
A solution of 1.6 g of methylamine in 35 ml of xylene prepared at 0° C. is flown to the solution of 13.0 g of 8-benzyl-4-methylene-2-oxo-1,3-dioxa-8-azaspiro[4,5]decane in 30 ml of xylene under stirring. The reaction is exothermic, thus the temperature of the reaction mixture increases up to 55° to 60° C. Thereafter, the heterogeneous reaction mixture is heated to a temperature of 100° to 102° C., maintained at the same temperature for 10 minutes, then 0.2 g of p-toluenesulfonic acid monohydrate is added to the solution and the reaction mixture is boiled while the water formed in the reaction is azeotropically distilled out. After termination of the reaction the mixture is cooled down to room temperature, washed with 5% by weight aqueous sodium hydroxide solution and after separation the xylene phase is washed to neutral with water. The organic phase is dried over anhydrous sodium sulfate and evaporated under reduced pressure. The residue is recrystallized from a mixture of ethanol and diisopropyl ether under clarifying by activated carbon to obtain the title compound in 96.7% yield, m.p.: 96°-97° C.

reactant | methylamine | 1.6 g | CN | CH5N
reactant | 8-benzyl-4-methylene-2-oxo-1,3-dioxa-8-azaspiro[4,5]decane | 13.0 g | C(C1=CC=CC=C1)N1CCC2(C(OC(O2)=O)=C)CC1 | C15H17NO3
reactant | p-toluenesulfonic acid monohydrate | 0.2 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | O | H2O
solvent | xylene | 35 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 30 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 8-benzyl-3-methyl-4-methylene-2-oxo-1-oxa-3,8-diazaspiro[4,5]decane | 96.7% yield | C(C1=CC=CC=C1)N1CCC2(C(N(C(O2)=O)C)=C)CC1 | C16H20N2O2
